US07056918B2
2-(1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-oxo-3-m-tolyl-propionitrile (66.5 mg, 0.19 mmol) was diluted with 2-propanol (0.4 mL) and acetic acid (0.8 mL). Hydroxyethyl hydrazine was then added (0.1 mL) and the mixture was heated to 70° C. for 8 hours. The reaction was cooled, poured onto saturated sodium bicarbonate and extracted with ethyl acetate. The organic layer was dried with sodium sulfate and concentrated. Preparative thin layer chromatography gave 5-[5-Amino-1-(2-hydroxy-ethyl)-3-m-tolyl-1H-pyrazol-4-yl]-1-cyclobutyl-3-methyl-1,3-dihydro-benzoimidazol-2-one (27.6 mg).

reactant | 2-(1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-oxo-3-m-tolyl-propionitrile | 0.19 mmol, 66.5 mg | C1(CCC1)N1C(N(C2=C1C=CC(=C2)C(C#N)C(C=2C=C(C=CC2)C)=O)C)=O | C22H21N3O2
reactant | Hydroxyethyl hydrazine | OCCNN | C2H8N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-propanol | 0.4 mL | CC(C)O | C3H8O
solvent | acetic acid | 0.8 mL | C(C)(=O)O | C2H4O2
product | 5-[5-Amino-1-(2-hydroxy-ethyl)-3-m-tolyl-1H-pyrazol-4-yl]-1-cyclobutyl-3-methyl-1,3-dihydro-benzoimidazol-2-one | 27.6 mg | NC1=C(C(=NN1CCO)C=1C=C(C=CC1)C)C1=CC2=C(N(C(N2C)=O)C2CCC2)C=C1 | C24H27N5O2
